US06417212B1
A. 2-[4-(4-{2-[4-(1-Ethoxycarbonyl-1-methyl-ethoxy)-phenoxy]-ethyl}-5-methyloxazol-2-yl)-phenyl]-pyrrole-1-carboxylic acid tert-butyl ester
A solution of 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl-propionic acid ethyl ester (907 mmol) (see Ex. 2, part B) and 1-(t-butoxycarbonyl)pyrrole-2-boronic acid (0.998 mmol) in toluene: ethanol (18.2 mL of a 1:1 solution) was treated with Na2CO3(aq) (0.906 mL of a 2M solution). A nitrogen atmosphere was applied, Pd(PPh3)4 (52.5 mg) was added, and the orange mixture was heated at reflux for 2 h. After cooling to room temperature, the mixture was partitioned between ethyl acetate (20 mL) and H2O (30 mL). The layers were separated, and the aqueous phase was back-extracted with ethyl acetate (2×10 mL). Combined organic phases were washed with brine (20 mL), dried over Na2SO4, and concentrated. The product was purified by silica gel chromatography (20 g SiO2, 3:7 ethyl acetate:hexanes) to yield the product in 92% yield as an oil; Rf=0.50 in 1:4 ethyl acetate:hexanes; 1H NMR (400 MHz, CDCl3) δ7.92 (d, J=8.0 Hz, 2H), 7.37 (d, J=8.0 Hz, 2H), 7.34 (t, J=2.4 Hz, 1H), 6.79 (d, J=9.4 Hz, 2H), 6.74 (d, J=9.4 Hz, 2), 6.21 (d, J=2.4 Hz, 2H), 4.20 (q, J=6.8 Hz, 2H), 4.16 (t, J=6.8 Hz, 2H), 2.93 (d, J=6.8 Hz, 2H), 2.34 (s, 3H), 1.49 (s, 6H), 1.33 (s, 9H), MS (EI) 598.2 (M+Na)+, 575.2 (M+H)+.

reactant | 2-(4-{2-[2-(4-bromophenyl)-5-methyloxazol-4-yl]ethoxy}phenoxy)-2-methyl-propionic acid ethyl ester | 907 mmol | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C24H26BrNO5
reactant | 1-(t-butoxycarbonyl)pyrrole-2-boronic acid | 0.998 mmol | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | ethanol | C(C)O | C2H6O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 52.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(4-{2-[4-(1-Ethoxycarbonyl-1-methyl-ethoxy)-phenoxy]-ethyl}-5-methyloxazol-2-yl)-phenyl]-pyrrole-1-carboxylic acid tert-butyl ester | 92% yield | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)OC(C)(C)C(=O)OCC)C | C33H38N2O7
